US04797129
Preparation of 2-(β-hydroxyethoxyethyl)amino-6-(β-hydroxyethoxyethyl)aminonitrobenzene
300 mg of palladium at a concentration of 10% on calcium carbonate are added to 0.015 mole (5.45 g) of 4-chloro-2-(β-hydroxyethoxyethyl)amino-6-(β-hydroxyethoxyethyl)aminonitrobenzene in 11 ml of triethylamine. 1.1 ml of acetic acid and 2.05 ml of formic acid are then run in dropwise. When the additions have been completed the reaction mixture is heated under reflux for 30 minutes. 10 ml of water are added. The reaction mixture diluted in this manner is filtered hot to remove the catalyst. The filtrate is evaporated to dryness under vacuum in the presence of absolute ethanol and the residue is taken up with ethyl acetate. Insoluble organic salts are removed by filtration. The ethyl acetate is evaporated off to dryness. Acetonitrile and then water are added to the residue. The expected product precipitates. Recrystallized from ethyl acetate, it melts at 82° C.

reactant | 4-chloro-2-(β-hydroxyethoxyethyl)amino-6-(β-hydroxyethoxyethyl)aminonitrobenzene | 0.015 mole, 5.45 g | ClC1=CC(=C(C(=C1)NCCOCCO)[N+](=O)[O-])NCCOCCO | C14H22ClN3O6
reactant | acetic acid | 1.1 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 2.05 ml | C(=O)O | CH2O2
reactant | water | 10 ml | O | H2O
solvent | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium | 300 mg | [Pd] | Pd
product | 2-(β-hydroxyethoxyethyl)amino-6-(β-hydroxyethoxyethyl)aminonitrobenzene | OCCOCCNC1=C(C(=CC=C1)NCCOCCO)[N+](=O)[O-] | C14H23N3O6
